US07776857B2
A pyrex reaction tube was charged with Pd(PPh3)4(200 mg, 173 μmol), 4-chloro-6-iodoquinoline (1.00 g, 3454 μmol), zinc cyanide (406 mg, 3454 μmol) and DMF. The tube was purged with argon, sealed, and the heterogeneous mixture was stirred at 50° C. for 17 h. The mixture was poured into water and the resulting solids were filtered, washed with water, and dried. The crude material was purified by silica gel chromatography, 0-5% MeOH/DCM to provide 4-chloroquinoline-6-carbonitrile as a white solid. MS: [M+H]=189.

reactant | 4-chloro-6-iodoquinoline | 3454 μmol, 1.00 g | ClC1=CC=NC2=CC=C(C=C12)I | C9H5ClIN
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 173 μmol, 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc cyanide | 3454 μmol, 406 mg | [C-]#N.[Zn+2].[C-]#N
product | 4-chloroquinoline-6-carbonitrile | ClC1=CC=NC2=CC=C(C=C12)C#N | C10H5ClN2
